US06177424B1
6-Nitro-4,8-dimethyl-7-hydroxycoumarin
4,8-Dimethyl-7-hydroxycoumarin (7.50 g, 39.4 mmoles) was dissolved in 75 ml concentrated sulfuric acid at room temperature and chilled to −20° C. before the addition of chilled nitrating mixture (3 ml concentrated nitric acid added to 9 ml concentrated sulfuric acid). Stirring was continued for three hours at −20° C. with the mixture allowed to warm before pouring into ice. Bright yellow crystals were filtered, washed with water and dried to recover 7.50 g (81% yield). The product was recrystallized from ethanol to give yellow green crystals: mp 229.5-231.5° C.; 1H-nmr (dimethyl sulfoxide-d6):δ 2.29 (s, 3H), 2.41 (s, 3H), 6.37 (s, 1H), 8.19 (s, 1H), 11.30 (s, 1H); 13C-nmr (dimethyl sulfoxide-d6):δ 8.8, 18.0, 112.4, 112.9, 115.1, 119.9, 132.8, 152.9, 154.2, 155.1, 159.0; ms: (EI) m/z (relative intensity) 236 (M+, 23), 235 (M+, base) 207 (84), 77 (30).

reactant | 4,8-Dimethyl-7-hydroxycoumarin | 39.4 mmoles, 7.50 g | CC1=CC(OC2=C(C(=CC=C12)O)C)=O | C11H10O3
reactant | nitric acid | 3 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 75 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 9 ml | S(O)(O)(=O)=O | H2O4S
product | 6-Nitro-4,8-dimethyl-7-hydroxycoumarin | 81% yield | [N+](=O)([O-])C=1C=C2C(=CC(OC2=C(C1O)C)=O)C | C11H9NO5
